US04303583
A mixture of 1-[3-(benzoylthio)-1-oxopropyl]-2,3-dihydro-1H-indole-2-carboxylic acid (3.0 g.) and methanolic ammonia (5.5 N solution, 45 ml.) was stirred at room temperature for 2.5 hours, then evaporated under reduced pressure on a rotary evaporator to give a resinous material. The residue was dissolved in water, and the aqueous solution was washed with ethyl acetate three times. The aqueous phase was acidified to pH ca. 2 by dropwise addition of dilute hydrochloric acid, whereby an oil separated. The oil was extracted with ethyl acetate (two times). The combined extract was washed with water, then with saline, and dried over anhydrous sodium sulfate. The ethyl acetate was evaporated on a rotary evaporator under reduced pressure to give an oily residue which was placed under high vacuum to give a solid material. The crude product was dissolved in a small amount of warm ethyl acetate with warming on a steam bath (there was some insoluble solid material which was removed by filtration). The ethyl acetate solution was kept under mild nitrogen stream until a precipitate started to separate. The mixture was chilled in ice, then kept in a refrigerator. The precipitate was collected on a filter and washed with acetonitrile to give 1,1'-dithiobis[3-oxo-1,3-propanediyl]bis[2,3-dihydro-1H-indole-2-carboxylic acid], m.p. 213°-216°.

reactant | 1-[3-(benzoylthio)-1-oxopropyl]-2,3-dihydro-1H-indole-2-carboxylic acid | 3.0 g | C(C1=CC=CC=C1)(=O)SCCC(=O)N1C(CC2=CC=CC=C12)C(=O)O | C19H17NO4S
reactant | ammonia | 5.5 N, 45 ml | N | H3N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1'-dithiobis[3-oxo-1,3-propanediyl]bis[2,3-dihydro-1H-indole-2-carboxylic acid] | O=C(CCSSCCC(=O)N1C(CC2=CC=CC=C12)C(=O)O)N1C(CC2=CC=CC=C12)C(=O)O | C24H24N2O6S2
